US05464781
A mixture of ethyl 4-(4-methoxyanilino)-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (2.9 g) in dichloromethane (45 ml) was added rapidly to a suspension of powdered anhydrous aluminium chloride (12.8 g) in dichloromethane (115 ml) with stirring. The mixture was stirred for 24 hours at ambient temperature and then poured into ice/water. The mixture was stirred for 30 minutes then filtered. The residue was basified and partitioned between dichloromethane and water. The aqueous layer was evaporated to dryness. The residue was dissolved in propan-2-ol (150 ml) and then purified by column chromatography to give 6-hydroxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine-3-carboxylic acid hemihydrate, m.p. 267°-268° C. (with decomposition).

reactant | ethyl 4-(4-methoxyanilino)-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 2.9 g | COC1=CC=C(NC2=C(C=NC3=NC(=C(C=C23)OCC)C)C(=O)OCC)C=C1 | C21H23N3O4
reactant | aluminium chloride | 12.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 115 ml | ClCCl | CH2Cl2
product | 6-hydroxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine-3-carboxylic acid hemihydrate | O.OC=1C=C2C(=C(C=NC2=NC1C)C(=O)O)NC1=CC=C(C=C1)OC.OC=1C=C2C(=C(C=NC2=NC1C)C(=O)O)NC1=CC=C(C=C1)OC | InChI=1S/2C17H15N3O4.H2O/c2*1-9-14(21)7-12-15(13(17(22)23)8-18-16(12)19-9)20-10-3-5-11(24-2)6-4-10;/h2*3-8,21H,1-2H3,(H,22,23)(H,18,19,20);1H2
